US06677352B1
A mixture of 5-methyl-1-phenyl-2-phenylamino-7-piperazin-1-yl-1H-[1,8]naphthyridin-4-one (21.0 mg, 0.052 mmol), propionic acid (0.004 mL, 0.055 mmol), EDCI (11.9 mg, 0.062 mmol), DMAP (7.6 mg, 0.062 mmol), and NMM (0.006 mL, 0.062) in CH2Cl2 (0.8 mL) was stirred at room temperature overnight. The reaction was diluted with water and extracted with CH2Cl2. The combined organic extracts were washed with 0.5 N HCl and brine and concentrated in vacuo. The residue was purified by prep-TLC eluting with 100% EtOAc to give 5-methyl-1-phenyl-2-phenylamino-7-(4-propionyl-piperazin-1-yl)-1H-[1,8]naphthyridin-4-one (9.0 mg, 37%): LCMS RT: 2.29 min, MH+: 468.3.

reactant | 5-methyl-1-phenyl-2-phenylamino-7-piperazin-1-yl-1H-[1,8]naphthyridin-4-one | 0.052 mmol, 21.0 mg | CC1=C2C(C=C(N(C2=NC(=C1)N1CCNCC1)C1=CC=CC=C1)NC1=CC=CC=C1)=O | C25H25N5O
reactant | propionic acid | 0.055 mmol, 0.004 mL | C(CC)(=O)O | C3H6O2
reactant | EDCI | 0.062 mmol, 11.9 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 0.006 mL | CN1CCOCC1 | C5H11NO
catalyst | DMAP | 0.062 mmol, 7.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 0.8 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-methyl-1-phenyl-2-phenylamino-7-(4-propionyl-piperazin-1-yl)-1H-[1,8]naphthyridin-4-one | 9.0 mg, 37% | CC1=C2C(C=C(N(C2=NC(=C1)N1CCN(CC1)C(CC)=O)C1=CC=CC=C1)NC1=CC=CC=C1)=O | C28H29N5O2
